US04652668
[R and S]-N-(1-Ethoxycarbonyl-3-Phenylpropyl)-L-Alanine
N-(1-Ethoxycarbonyl-3-Phenylpropyl)-L-Alanine Benzylester (4.2 g) is dissolved in 40 ml ethanol, to which is added 630 mg 10% Pd-C and a few drops of acetic acid. Hydrogenation occurs under a 30 psi hydrogen atmosphere at room temperature overnight. The resulting mixture is filtered through celite and dried under vacuum to remove the solvent, yielding a residue. The residue is partitioned between chloroform and aqueous 5% NaHCO3, separated, and the chloroform layer further washed with aqueous 5% NaHCO3. The aqueous layers are combined, acidified to pH 3.5 with dilute HCl, extracted with chloroform or ethylacetate several times, dried over MgSO4, and placed under vacuum to evaporate the solvent and yield 2.5 g of the diastereoisomeric product, a brown sticky solid [TLC (Silica gel; CHCl3 /MeOH/HOAC=9:1:0.5); Rf=0.4].

reactant | N-(1-Ethoxycarbonyl-3-Phenylpropyl)-L-Alanine Benzylester | 4.2 g | C(C1=CC=CC=C1)OC([C@@H](NC(CCC1=CC=CC=C1)C(=O)OCC)C)=O | C22H27NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
catalyst | Pd-C | 630 mg | [Pd] | Pd
product | N-(1-Ethoxycarbonyl-3-Phenylpropyl)-L-Alanine | C(C)OC(=O)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C15H21NO4
